US07402672B2
3-Phenylsulfanyl-1H-pyrrolo[3,2-c]pyridine-2-carboxylic acid amide, Ib-1
Treat 1H-pyrrolo[3,2-c]pyridine-2-carboxylic acid amide 6b-1 (1.0 equiv) in DMF (100 mL) with diphenyldisulfide (1.1 equiv) as described above in General Procedure IVb to provide I-1 as an ivory colored solid: 1H NM (DMSO-d6) δ 12.48 (bs, 1H), 8.70 (s, 1H), 8.29 (d, J=5.8 Hz, 1H), 8.04 (bs, 1H), 7.76 (bs, 1H), 7.44 (dd, J=1.1, 5.7 Hz, 1H), 7.26 (m, 2H), 7.14 (m, 3H); m/z=270.1 (M+H).

reactant | 1H-pyrrolo[3,2-c]pyridine-2-carboxylic acid amide | N1C(=CC=2C=NC=CC21)C(=O)N | C8H7N3O
reactant | diphenyldisulfide | 1.1 equiv | C1(=CC=CC=C1)SSC1=CC=CC=C1 | C12H10S2
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 3-Phenylsulfanyl-1H-pyrrolo[3,2-c]pyridine-2-carboxylic acid amide | C1(=CC=CC=C1)SC1=C(NC2=C1C=NC=C2)C(=O)N | C14H11N3OS
